US07888354B2
Preparation of 4-{[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]carbonyl}morpholine monohydrochloride
To a solution of 4-{[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]carbonyl}morpholine obtained in Example 6-(2) (2.62 g) in ethyl acetate (18 mL), a solution of hydrochloric acid in ethyl acetate (4 M, 2.46 mL) was added and stirred at room temperature for 30 minutes. The precipitated crystal was collected by filtration to give a crude crystal (2.9 g). A suspension of the resulting crude crystal in ethanol (9 mL) was heated under reflux to give a solution, which was then filtered. After addition of ethanol (6 mL), the filtrate was stirred for 30 minutes while cooling to room temperature. The mixture was further stirred in an ice bath for 1.5 hours, and the precipitated crystal was collected by filtration and dried to give the titled compound (2.67 g) as a colorless powder.

reactant | 4-{[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]carbonyl}morpholine | C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1N=CC(=C1)C(=O)N1CCOCC1 | C22H30N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 18 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4 M, 2.46 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 9 mL | C(C)O | C2H6O
product | 4-{[1-(4-{3-[(2R)-2-methylpyrrolidin-1-yl]propoxy}phenyl)-1H-pyrazol-4-yl]carbonyl}morpholine monohydrochloride | 2.67 g | Cl.C[C@H]1N(CCC1)CCCOC1=CC=C(C=C1)N1N=CC(=C1)C(=O)N1CCOCC1 | InChI=1S/C22H30N4O3.ClH/c1-18-4-2-9-24(18)10-3-13-29-21-7-5-20(6-8-21)26-17-19(16-23-26)22(27)25-11-14-28-15-12-25;/h5-8,16-18H,2-4,9-15H2,1H3;1H/t18-;/m1./s1
